US05554615
A 1.0M solution (200 ml, 200 ml) of allylmagnesium bromide in diethyl ether was dropped into a solution of t-butyl 4-formylbenzoate (30.9 g, 150 mmol) in anhydrous tetrahydrofuran, while stirring the latter under cooling with ice in a nitrogen stream. After the completion of the dropping, the obtained mixture was further stirred for 30 minutes, followed by the addition of 220 ml of 1N hydrochloric acid cooled with ice. The obtained mixture was vigorously stirred. The aqueous layer was further extracted with diethyl ether. The organic layers were combined, washed with an aqueous solution of common salt, dried and concentrated. The residue was purified by silica gel column chromatography to give t-butyl 4-(1-hydroxy-3-butenyl)benzoate. Yield: 8.2 g.

reactant | allylmagnesium bromide | C(C=C)[Mg]Br
reactant | t-butyl 4-formylbenzoate | 150 mmol, 30.9 g | C(=O)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C12H14O3
reactant | hydrochloric acid | 1N, 220 ml | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | t-butyl 4-(1-hydroxy-3-butenyl)benzoate | OC(CC=C)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C15H20O3
